US06399629B1
(B) (2S,4R)-4-(N-tert-Butoxycarbonylglycylamino)-2-(4-Biphenyloxy)methyl-N-tert-Butoxycarbonylpyrrolidine
Diethyl azodicarboxylate (158 mL) was added to a mixture of (2S,4R)-4-(N-tert-butoxycarbonylglycylamino)-2-hydroxymethyl-N-tert-butoxycarbonylpyrrolidine (A, 310 mg), 4-phenylphenol (148 mg), and triphenyl phosphine (229 mg) in tetrahydrofuran (10 mL) under argon at room temperature. After stirring at room Ad temperature for 17 hr, the mixture was concentrated in vacuo to give a residue, which was purified by silica gel column chromatography (chloroform:methanol=200:1, v/v) to afford title compound (431 mg): 1H NMR (400 MHz, CDCl3) δ 1.44 (s, 18H), 2.01 (m, 1H), 2.38 (m, 1H), 3.21 (m, 1H), 3.72 (m, 1H), 3.77 (d, J=4.4 Hz, 2H), 3.99-4.25 (m, 3H), 4.68 (m, 1H), 5.49 (m, 1H), 6.85 (m, 1H), 6.97 (d, J=7.3 Hz, 2H), 7.29 (d, J=7.3 Hz, 1H), 7.40 (t, J=7.3 Hz, 2H), 7.48-7.63 (m, 4H).

reactant | Diethyl azodicarboxylate | 158 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (2S,4R)-4-(N-tert-butoxycarbonylglycylamino)-2-hydroxymethyl-N-tert-butoxycarbonylpyrrolidine | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C17H31N3O6
reactant | 4-phenylphenol | 148 mg | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | triphenyl phosphine | 229 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (2S,4R)-4-(N-tert-Butoxycarbonylglycylamino)-2-(4-Biphenyloxy)methyl-N-tert-Butoxycarbonylpyrrolidine | 431 mg | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)COC1=CC=C(C=C1)C1=CC=CC=C1 | C29H39N3O6
